US06458772B1
To a solution of 4-methoxybenzyl 5-(N-CBz-L-valyloxy)-4-stearoyloxy-2,2-dimethylvalerate (25.5 g, 33 mmol) in CH2Cl2 (400 mL) at room temperature, was added trifluoroacetic acid (40 mL). After 1 h at room temperature, the reaction mixture was concentrated under reduced pressure. The crude product was column chromatographed (silica gel, 3→5%MeOH in CH2Cl2), to give 19.8 g of 5-(N-CBz-L-valyloxy)-4-stearoyloxy-2,2-dimethylvaleric acid.

reactant | 4-methoxybenzyl 5-(N-CBz-L-valyloxy)-4-stearoyloxy-2,2-dimethylvalerate | 33 mmol, 25.5 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OCC(CC(C(=O)OCC1=CC=C(C=C1)OC)(C)C)OC(CCCCCCCCCCCCCCCCC)=O | C46H71NO9
reactant | trifluoroacetic acid | 40 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
product | 5-(N-CBz-L-valyloxy)-4-stearoyloxy-2,2-dimethylvaleric acid | 19.8 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OCC(CC(C(=O)O)(C)C)OC(CCCCCCCCCCCCCCCCC)=O | C38H63NO8
